* C:\Users\Home\Desktop\VLSI-Portfolio\project-01-cmos-logic-design\schematics\cmos_nand.asc
* Generated by LTspice 26.0.2 for Windows.
M1 V1 V2 OUT V1 PMOS
M2 V1 V3 OUT V1 PMOS
M3 OUT V3 N001 0 NMOS
M4 N001 V2 0 0 NMOS
V1 V1 0 5
V2 V2 0 PULSE(0 5 0n 100p 100p 5n 10n)
V3 V3 0 PULSE(0 5 0n 100p 100p 10n 20n)
C1 OUT 0 10f
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\Home\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 50n
.measure TRAN TPHL TRIG V(V2) VAL=2.5 RISE=2 TARG V(OUT) VAL=2.5 FALL=2
.measure TRAN TPLH TRIG V(V2) VAL=2.5 FALL=2 TARG V(OUT) VAL=2.5 RISE=2
.measure TRAN RISE_TIME TRIG V(OUT) VAL=0.5 RISE=1 TARG V(OUT) VAL=4.5 RISE=1
.measure TRAN FALL_TIME TRIG V(OUT) VAL=4.5 FALL=1 TARG V(OUT) VAL=0.5 FALL=1
.measure TRAN IAVG AVG I(V1)
.measure TRAN IMAX MAX ABS(I(V1))
.measure TRAN IMIN MIN I(V1)
.backanno
.end
